2147-12-19 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2147-12-18**] 03:00 PM
 ARTERIAL LINE - START [**2147-12-18**] 03:47 PM
 PRESEP CATHETER - START [**2147-12-18**] 03:47 PM
 EKG - At [**2147-12-18**] 03:58 PM
 BLOOD CULTURED - At [**2147-12-18**] 07:00 PM
 URINE CULTURE - At [**2147-12-18**] 07:00 PM
   Initially weaned off pressors, but resumed small dose of levophed
   overnight
   UOP recorded since MN not accurate
   See Admission note re: initial mgt & other overnight events
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-12-18**] 03:45 PM
   Ciprofloxacin - [**2147-12-18**] 05:00 PM
   Tamiflu - [**2147-12-18**] 06:30 PM
   Gentamicin - [**2147-12-18**] 08:50 PM
   Meropenem - [**2147-12-19**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-19**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 89 (76 - 113) bpm
   BP: 113/96(104) {85/63(73) - 151/96(114)} mmHg
   RR: 20 (17 - 20) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 12 (8 - 14)mmHg
   Mixed Venous O2% Sat: 94 - 94
   Total In:
                                                                  7,228 mL
                                                                    390 mL
   PO:
   TF:
   IVF:
                                                                    778 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,680 mL
                                                                    165 mL
   Urine:
                                                                  1,380 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,548 mL
                                                                    225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 158
   RSBI Deferred: No Spon Resp
   PIP: 31 cmH2O
   Plateau: 27 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 97%
   ABG: 7.45/33/69/25/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 173
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   184 K/uL
   8.7 g/dL
   109 mg/dL
   0.3 mg/dL
   25 mEq/L
   3.1 mEq/L
   8 mg/dL
   112 mEq/L
   143 mEq/L
   26.9 %
   5.5 K/uL
        [image002.jpg]
                            [**2147-12-18**]  03:08 PM
                            [**2147-12-18**]  04:17 PM
                            [**2147-12-18**]  06:36 PM
                            [**2147-12-18**]  10:14 PM
                            [**2147-12-19**]  05:33 AM
                            [**2147-12-19**]  05:45 AM
   WBC
   3.3
   5.5
   Hct
   32.9
   26.9
   Plt
   185
   184
   Cr
   0.3
   0.3
   TCO2
   22
   23
   24
   24
   Glucose
   227
   109
   Other labs: PT / PTT / INR:18.1/35.5/1.6, ALT / AST:19/26, Alk Phos / T
   Bili:76/0.6, Differential-Neuts:77.2 %, Band:33.0 %, Lymph:19.0 %,
   Mono:3.3 %, Eos:0.2 %, Fibrinogen:525 mg/dL, Lactic Acid:1.7 mmol/L,
   Ca++:7.5 mg/dL, Mg++:2.6 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with 3 days of UTI (with + urine culture) and worsening
   productive cough/hypoxia likely representing PNA.
   .
   # PNA / hypoxic & hypercapneic respiratory failure: CXR this AM notable
   for worsened fluid overload, no focal consolidation evident, but
   opacities predominantly in the lower lobes.  Switched from AC to PSV
   this AM for comfort with no intention to wean vent today as primary
   infectious process not yet controlled and may require addntl fluid
   resuscitation for sepsis despite pulm edema..
   - f/u Blood Cx, sputum Cx, urine legionella (NEGATIVE), flu swab (DFA
   NEGATIVE, viral culture pending)
   - Covering for HAP given recent hospitalization and trach with vanco,
   meropenem, gentamicin (reasons below). d1= [**12-18**]
   - continue tamiflu 75mg [**Hospital1 **] until viral culture final
   - serial ABG, daily CXR
   - Albuterol MDI prn
   - consider ECHO when off pressors and s/p some duiresis as cardiomegaly
   worse on CXR, pt s/p recent PEA arrest in [**2147-10-3**] (last echo in
   system [**2146**] normal)
   .
   # Sepsis/hypotension: S/p 7L NS in the ED and 1-2 L here with CVP~14.
   Good UOP at this time.  Attributable to either pulmonary or urinary
   infection--at this time, seems to have both. Highly concerning that her
   initial WBC dropped from 6 to 3 in a span of 4 hours and bandemia rose
   from 1% to 33%.
   - bolus to maintain HR~80, UOP>60
   - levophed to maintain MAP~60
   - serial lactate, SVO2 (last sample =94, spurious)
   - Abd US in TODAY to assess fro ascites as reported on prior supine
   CXR, if present, tap
   .
   # UTI/ hx of ESBL: Pt's last UTI was [**3-6**] ESBL Klebsiella with only
   intermediate sensitivity to the zosyn given in the ED.  It has been
   treated successfully with meropenem in the past and is highly reistant
   to other agents.  Her UCX from 3d PTA grew Citrobacter freundii which
   is resistant to fluroquinolones & cefazolin, but otherwise sensitive.
   That said, MIC for Imipenem listed as <=4 which is the upper limit of
   what is considered to be sensitive. This was discussed w/ ID; their
   recommendation was to add gentamicin to meropenem given the severity of
   her presentation and borderline sensitivity to carbapenems.
   - vancomycin, meropenem, gentamicin D1=[**12-18**]
   - gentamicin troughs daily, monitor renal fxn daily, minimize other
   nephtotoxins
   - consider formal ID if pt fails to improve
   .
   # S/p traumatic spine injury: continue home methadone, baclofen,
   lyrica; hold oxycodone, oxybutynin and klonopin
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   Nutrition: NPO for now, will address tomorrow
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-12-18**] 03:30 PM
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM
   18 Gauge - [**2147-12-18**] 03:48 PM
   Prophylaxis:
   DVT: sqh + filter
   Stress ulcer: ppi + sucralfate
   VAP:  routine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2147-12-20 06:44:00 Physician Resident Progress Note
Chief Complaint: Pneumonia
   24 Hour Events:
 FEVER - 102.2
F - [**2147-12-19**] 12:00 PM
   Sputum gram stain: GPCs in pairs and clusters
   BPs lower, got 2L IVFs.  CVP up to 15, so increased levophed
   Abdominal US showed trace perihepatic ascites
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2147-12-18**] 03:45 PM
   Ciprofloxacin - [**2147-12-18**] 05:00 PM
   Tamiflu - [**2147-12-18**] 06:30 PM
   Vancomycin - [**2147-12-19**] 08:00 PM
   Gentamicin - [**2147-12-19**] 11:00 PM
   Meropenem - [**2147-12-20**] 06:00 AM
   Infusions:
   Fentanyl (Concentrate) - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-20**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39
C (102.2
   Tcurrent: 37.9
C (100.2
   HR: 106 (78 - 106) bpm
   BP: 146/121(133) {89/54(69) - 151/133(167)} mmHg
   RR: 21 (11 - 26) insp/min
   SpO2: 87%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 13 (9 - 46)mmHg
   Total In:
                                                                  2,510 mL
                                                                    358 mL
   PO:
   TF:
   IVF:
                                                                  2,300 mL
                                                                    358 mL
   Blood products:
   Total out:
                                                                  1,770 mL
                                                                    770 mL
   Urine:
                                                                  1,770 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    740 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 404 (404 - 428) mL
   PS : 18 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 27 cmH2O
   Compliance: 25 cmH2O/mL
   SpO2: 87%
   ABG: 7.36/40/73.[**Numeric Identifier 252**]/23/-2
   Ve: 8.4 L/min
   PaO2 / FiO2: 183
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   241 K/uL
   9.5 g/dL
   132 mg/dL
   0.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   5 mg/dL
   112 mEq/L
   143 mEq/L
   28.5 %
   12.6 K/uL
        [image002.jpg]
                            [**2147-12-18**]  03:08 PM
                            [**2147-12-18**]  04:17 PM
                            [**2147-12-18**]  06:36 PM
                            [**2147-12-18**]  10:14 PM
                            [**2147-12-19**]  05:33 AM
                            [**2147-12-19**]  05:45 AM
                            [**2147-12-20**]  05:23 AM
                            [**2147-12-20**]  05:58 AM
   WBC
   3.3
   5.5
   12.6
   Hct
   32.9
   26.9
   28.5
   Plt
   185
   184
   241
   Cr
   0.3
   0.3
   0.2
   TCO2
   22
   23
   24
   24
   24
   Glucose
   227
   109
   132
   Other labs: PT / PTT / INR:15.3/33.6/1.3, ALT / AST:19/26, Alk Phos / T
   Bili:76/0.6, Differential-Neuts:77.2 %, Band:33.0 %, Lymph:19.0 %,
   Mono:3.3 %, Eos:0.2 %, Fibrinogen:525 mg/dL, Lactic Acid:1.2 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Imaging: CXR - Worsening bilateral infiltrates; CL in RA/RV
   Microbiology: Sputum - GS 3+ GPC, culture pending; urine GNR; blood
   pending.
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with 3 days of UTI (with + urine culture) and worsening
   productive cough/hypoxia likely representing PNA.
   .
   # PNA / hypoxic & hypercapneic respiratory failure: CXR this AM notable
   for FURTHER worsening of fluid overload, no focal consolidation
   evident, but opacities predominantly in the lower lobes c/w PNA.
   Switched from PSV to MMV this AM [**3-6**] apnea s/p sedation bolus.
   - f/u Blood Cx (NGTD), sputum Cx (3+ GPC), urine legionella (NEGATIVE),
   flu swab (DFA NEGATIVE, viral culture pending)
   - Covering for HAP given recent hospitalization and trach with vanco,
   meropenem, gentamicin (reasons below). d1= [**12-18**]
   - continue tamiflu 75mg [**Hospital1 **] until viral culture final
   - serial ABG, daily CXR
   - Albuterol MDI prn
   - had considered deferring ECHO until septic physiology resolved, but
   given degree of fluid overload in lungs, will get it today
   .
   # Sepsis/hypotension: S/p 7L NS in the ED and 4 L (total) here with
   CVP~14. Good UOP at this time.  Attributable to either pulmonary or
   urinary infection--seems to have both.
   - bolus to maintain HR~80, UOP>60
   - levophed to maintain MAP~60; currently favoring levophed over fluids
   given CVP~15
   - serial lactate, LAST 1.2
   - Abd US with no ascites to tap
   .
   # UTI/ hx of ESBL: Pt's last UTI was [**3-6**] ESBL Klebsiella with only
   intermediate sensitivity to the zosyn given in the ED.  It has been
   treated successfully with meropenem in the past and is highly reistant
   to other agents.  Her UCX from 3d PTA grew Citrobacter freundii which
   is resistant to fluroquinolones & cefazolin, but otherwise sensitive.
   That said, MIC for Imipenem listed as <=4 which is the upper limit of
   what is considered to be sensitive. This was discussed w/ ID; their
   recommendation was to add gentamicin to meropenem given the severity of
   her presentation and borderline sensitivity to carbapenems.
   - vancomycin, meropenem, gentamicin D1=[**12-18**]
   - gentamicin troughs daily (goal is trough less than 2 given
   indication), monitor renal fxn daily, minimize other nephtotoxins
   - consider formal ID if pt fails to improve
   - f/u Ucx (GNRs, speciation & sensitivities pending)
   .
   # S/p traumatic spine injury: continue home methadone, baclofen,
   lyrica; hold oxycodone, oxybutynin and klonopin
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   .
   # FEN: IVFs / replete lytes prn / tube feeds
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   Nutrition: nutrition c/s for TFs
   Glycemic Control:
   Lines:
   20 Gauge - [**2147-12-18**] 03:30 PM
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM
   18 Gauge - [**2147-12-18**] 03:48 PM
   Prophylaxis:
   DVT: sqh, filter
   Stress ulcer: ppi, sucralfate
   VAP:  routine
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2147-12-22 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - rept Hct stable
   - gentamicin stopped
   - auto-diuresisng
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2147-12-20**] 08:00 PM
   Vancomycin - [**2147-12-22**] 12:30 AM
   Meropenem - [**2147-12-22**] 06:00 AM
   Infusions:
   Norepinephrine - 0.01 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-12-21**] 08:00 PM
   Carafate (Sucralfate) - [**2147-12-22**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-22**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100
   HR: 75 (75 - 94) bpm
   BP: 141/78(103) {88/51(68) - 141/78(103)} mmHg
   RR: 16 (10 - 17) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 65 Inch
    CVP: 9 (4 - 17)mmHg
   Total In:
                                                                  2,725 mL
                                                                  1,239 mL
   PO:
   TF:
                                                                    470 mL
                                                                    256 mL
   IVF:
                                                                  1,915 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  3,645 mL
                                                                  1,390 mL
   Urine:
                                                                  3,645 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -920 mL
                                                                   -151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/43/103/30/5
   Ve: 6.1 L/min
   PaO2 / FiO2: 206
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, No(t) Cyanosis
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   159 K/uL
   7.5 g/dL
   111 mg/dL
   0.2 mg/dL
   30 mEq/L
   3.3 mEq/L
   4 mg/dL
   109 mEq/L
   143 mEq/L
   22.8 %
   5.4 K/uL
        [image002.jpg]
                            [**2147-12-20**]  05:58 AM
                            [**2147-12-20**]  12:51 PM
                            [**2147-12-20**]  07:52 PM
                            [**2147-12-21**]  12:55 AM
                            [**2147-12-21**]  04:02 AM
                            [**2147-12-21**]  04:10 AM
                            [**2147-12-21**]  05:23 AM
                            [**2147-12-21**]  03:57 PM
                            [**2147-12-22**]  03:53 AM
                            [**2147-12-22**]  04:17 AM
   WBC
   8.0
   5.4
   Hct
   23.6
   23.6
   24.1
   22.8
   Plt
   176
   159
   Cr
   0.2
   0.2
   TCO2
   24
   27
   29
   28
   29
   32
   Glucose
   132
   111
   Other labs: PT / PTT / INR:14.1/34.3/1.2, ALT / AST:19/26, Alk Phos / T
   Bili:76/0.6, Differential-Neuts:77.2 %, Band:33.0 %, Lymph:19.0 %,
   Mono:3.3 %, Eos:0.2 %, Fibrinogen:525 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with CITROBACTER FREUNDII UTI and MRSA PNA.
   .
   # PNA / hypoxic & hypercapneic respiratory failure: CXR this AM
   slightly better, no focal consolidation evident, but opacities
   predominantly in the lower lobes c/w PNA.  On AC as now on propofol and
   completely sedated.
   - f/u Blood Cx (NGTD), sputum Cx (MRSA, strep speciation pending),
   urine legionella (NEGATIVE), flu swab (DFA NEGATIVE, viral culture
   negative)
   - Covering for HAP given recent hospitalization and trach with vanco &
   meropenem, gentamicin stopped (reasons below). d1= [**12-18**], plan for week
   long course
   - also seem to have strep in sputum, f/u sensitivities
   - serial ABG, daily CXR
   - Albuterol MDI prn
   - Wean sedation and attempt PSV as apnea resolves.
   .
   # Hypotension: S/p 7L NS in the ED and 4 L (total) here with CVP~14.
   Good UOP; PT is auto-diuresisng.  Initially hypotension was clearly
   septic in orign, at this point, seems primarily related to propofol and
   requiring the minimal dose of levophed.
   - bolus to maintain HR~80, UOP>60
   - levophed to maintain MAP~60; currently favoring levophed over fluids
   given CVP~15
   - serial lactate, LAST 1.2, no need to trend further unless
   decompensates
   .
   # UTI/ hx of ESBL: Pt's last UTI was [**3-6**] ESBL Klebsiella with only
   intermediate sensitivity to the zosyn given in the ED.  It has been
   treated successfully with meropenem in the past and is highly reistant
   to other agents.  Her UCX from 3d PTA grew Citrobacter freundii which
   is resistant to fluroquinolones & cefazolin, but otherwise sensitive.
   That said, MIC for Imipenem listed as <=4. Here, UCX grew citrobacter
   and it does seem to be sensitive to meropenem.
   - d/c
ed gentamicin
   - continue meropenem for 14 day course for UTI
   # ANEMIA: Etiology unclear, Likely related to fluid shifts. Serial
   guiaic negative. Initail hapto negative, will repeat. Transfuse one
   unit to reach goal of 25.
   .
   # S/p traumatic spine injury: continue home methadone, baclofen,
   lyrica; hold oxycodone, oxybutynin and klonopin
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   .
   # FEN: replete lytes prn (NEEDS [**Hospital1 **] LYTES GIVEN K/MG/PHOS requirements)
   / tube feeds
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   Nutrition: replete lytes prn (NEEDS [**Hospital1 **] LYTES GIVEN K/MG/PHOS
   requirements) / tube feeds
   Replete with Fiber (Full) - [**2147-12-21**] 02:30 AM 40 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM
   Prophylaxis:
   DVT:, heparin SQ/IVC-filter, bowel regimen
   Stress ulcer: PPI/sucralfate
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2147-12-23 05:53:00 Physician Resident Progress Note
Chief Complaint: pneumonia
   24 Hour Events:
   Got 1u PRBCs, HCT bumped appropriately, however drifting down again
   this AM
   [**12-18**] Sputum cx: Beta streptococcus group C
   Got 20mg IV lasix x1 because was over 1L positive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Gentamicin - [**2147-12-20**] 08:00 PM
   Meropenem - [**2147-12-22**] 11:25 PM
   Vancomycin - [**2147-12-23**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2147-12-23**] 05:40 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-12-22**] 07:54 AM
   Carafate (Sucralfate) - [**2147-12-22**] 12:05 PM
   Heparin Sodium (Prophylaxis) - [**2147-12-22**] 07:36 PM
   Furosemide (Lasix) - [**2147-12-22**] 08:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-23**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 81 (68 - 96) bpm
   BP: 115/66(86) {70/43(55) - 194/104(138)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
    CVP: 308 (6 - 327)mmHg
   Total In:
                                                                  4,641 mL
                                                                    799 mL
   PO:
   TF:
                                                                  1,198 mL
                                                                    352 mL
   IVF:
                                                                  2,208 mL
                                                                    447 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  5,110 mL
                                                                  1,160 mL
   Urine:
                                                                  5,110 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -469 mL
                                                                   -361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 377 (352 - 377) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 29 cmH2O
   SpO2: 94%
   ABG: 7.53/41/91.[**Numeric Identifier 253**]/34/10
   Ve: 7.7 L/min
   PaO2 / FiO2: 184
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   197 K/uL
   8.7 g/dL
   120 mg/dL
   0.2 mg/dL
   34 mEq/L
   3.6 mEq/L
   6 mg/dL
   102 mEq/L
   141 mEq/L
   24.7 %
   6.0 K/uL
        [image002.jpg]
                            [**2147-12-21**]  05:23 AM
                            [**2147-12-21**]  03:57 PM
                            [**2147-12-22**]  03:53 AM
                            [**2147-12-22**]  04:17 AM
                            [**2147-12-22**]  11:28 AM
                            [**2147-12-22**]  05:13 PM
                            [**2147-12-22**]  05:25 PM
                            [**2147-12-22**]  06:53 PM
                            [**2147-12-23**]  03:40 AM
                            [**2147-12-23**]  04:01 AM
   WBC
   5.4
   6.0
   Hct
   23.6
   24.1
   22.8
   26.4
   24.7
   Plt
   159
   197
   Cr
   0.2
   0.2
   0.2
   TCO2
   32
   33
   35
   34
   35
   Glucose
   111
   126
   120
   Other labs: PT / PTT / INR:13.0/33.2/1.1, ALT / AST:19/26, Alk Phos / T
   Bili:76/0.3, Differential-Neuts:77.2 %, Band:33.0 %, Lymph:19.0 %,
   Mono:3.3 %, Eos:0.2 %, Fibrinogen:525 mg/dL, Lactic Acid:0.9 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with CITROBACTER FREUNDII UTI and MRSA PNA.
   .
   # PNA / hypoxic & hypercapneic respiratory failure: CXR this AM
   slightly better, no focal consolidation evident, but opacities
   predominantly in the lower lobes c/w PNA.  On AC as now on propofol and
   completely sedated.
   - f/u Blood Cx (NGTD), sputum Cx (MRSA, strep speciation pending),
   urine legionella (NEGATIVE), flu swab (DFA NEGATIVE, viral culture
   negative)
   - Covering for HAP given recent hospitalization and trach with vanco &
   meropenem, gentamicin stopped (reasons below). d1= [**12-18**], plan for week
   long course
   - also seem to have strep in sputum, f/u sensitivities
   - serial ABG, daily CXR
   - Albuterol MDI prn
   - Wean sedation and attempt PSV as apnea resolves.
   .
   # Hypotension: S/p 7L NS in the ED and 4 L (total) here with CVP~14.
   Good UOP; PT is auto-diuresisng.  Initially hypotension was clearly
   septic in orign, at this point, seems primarily related to propofol and
   requiring the minimal dose of levophed.
   - bolus to maintain HR~80, UOP>60
   - levophed to maintain MAP~60; currently favoring levophed over fluids
   given CVP~15
   - serial lactate, LAST 1.2, no need to trend further unless
   decompensates
   .
   # UTI/ hx of ESBL: Pt's last UTI was [**3-6**] ESBL Klebsiella with only
   intermediate sensitivity to the zosyn given in the ED.  It has been
   treated successfully with meropenem in the past and is highly reistant
   to other agents.  Her UCX from 3d PTA grew Citrobacter freundii which
   is resistant to fluroquinolones & cefazolin, but otherwise sensitive.
   That said, MIC for Imipenem listed as <=4. Here, UCX grew citrobacter
   and it does seem to be sensitive to meropenem.
   - d/c
ed gentamicin
   - continue meropenem for 14 day course for UTI
   # ANEMIA: Etiology unclear, Likely related to fluid shifts. Serial
   guiaic negative. Initail hapto negative, will repeat. Transfuse one
   unit to reach goal of 25.
   .
   # S/p traumatic spine injury: continue home methadone, baclofen,
   lyrica; hold oxycodone, oxybutynin and klonopin
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   .
   # FEN: replete lytes prn (NEEDS [**Hospital1 **] LYTES GIVEN K/MG/PHOS requirements)
   / tube feeds
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2147-12-23**] 05:20 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-12-25 07:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2147-12-24**] 08:30 PM
   BC x 2 (aline & presep)
 URINE CULTURE - At [**2147-12-24**] 08:30 PM
 FEVER - 101.1
F - [**2147-12-24**] 08:00 PM
   Started on Klonapin 1mg QID per home regimen for anxiety.
   Patient on PS 5/5 overnight, tolerating well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2147-12-23**] 05:40 AM
   Vancomycin - [**2147-12-24**] 03:58 PM
   Meropenem - [**2147-12-25**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-12-24**] 08:14 AM
   Heparin Sodium (Prophylaxis) - [**2147-12-24**] 02:38 PM
   Carafate (Sucralfate) - [**2147-12-25**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-25**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 36.5
C (97.7
   HR: 63 (62 - 116) bpm
   BP: 150/86(112) {92/50(67) - 156/86(114)} mmHg
   RR: 13 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
    CVP: 6 (4 - 10)mmHg
   Total In:
                                                                  3,530 mL
                                                                    906 mL
   PO:
   TF:
                                                                  1,443 mL
                                                                    360 mL
   IVF:
                                                                  1,607 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,190 mL
   Urine:
                                                                  2,800 mL
                                                                  1,190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    730 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 327 (249 - 327) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.39/66/115/35/12
   Ve: 4.1 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   226 K/uL
   8.2 g/dL
   84 mg/dL
   0.2 mg/dL
   35 mEq/L
   4.1 mEq/L
   7 mg/dL
   103 mEq/L
   142 mEq/L
   24.3 %
   4.0 K/uL
        [image002.jpg]
                            [**2147-12-23**]  04:01 AM
                            [**2147-12-23**]  10:11 AM
                            [**2147-12-23**]  01:06 PM
                            [**2147-12-23**]  04:55 PM
                            [**2147-12-23**]  05:07 PM
                            [**2147-12-24**]  03:31 AM
                            [**2147-12-24**]  03:35 AM
                            [**2147-12-24**]  03:25 PM
                            [**2147-12-25**]  03:07 AM
                            [**2147-12-25**]  03:20 AM
   WBC
   5.0
   4.0
   Hct
   24.8
   26.0
   24.3
   Plt
   195
   226
   Cr
   0.2
   0.2
   0.2
   TCO2
   35
   30
   30
   35
   38
   41
   Glucose
   120
   157
   84
   Other labs: PT / PTT / INR:12.2/29.0/1.0, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:63.6 %, Band:33.0 %, Lymph:25.7 %,
   Mono:5.0 %, Eos:4.9 %, Fibrinogen:525 mg/dL, Lactic Acid:1.0 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with CITROBACTER FREUNDII UTI and MRSA PNA.
   # PNA / hypoxic & hypercapneic respiratory failure: Likely due to HAP.
   Sputum Culture growing MRSA and Group C Beta Strep.  Will wean with
   goal of possible SBT and extubation tomorrow.
   - f/u Blood Cx (NGTD), sputum Cx (MRSA, strep sensis pending), urine
   legionella (NEGATIVE), flu swab (DFA NEGATIVE, viral culture negative)
   - Covering for HAP given recent hospitalization and trach with vanco &
   meropenem, d1= [**12-18**], plan for week long course
   -,f/u culture sensitivities
   - serial ABG, daily CXR
   - Albuterol MDI prn
   - agitation: seems that this has been an obstacle to extuabation in the
   past, possibility of trach discussed with husband. Resuming home
   klonopin.
   # UTI/ hx of ESBL:   Urine culture here growing Citrobacter Freundii,
   sensitive to Meropenem
   - continue meropenem for 14 day course for UTI
   # Hypotension: Likely related to sepsis, now improved.
   - On levophed initially but now off
   # ANEMIA: Etiology unclear, patient with HCT of 23 on discharge two
   months ago.  Will cont to monitor and transfuse as needed
   - guaiac all stools
   - [**Hospital1 **] HCT, transfuse for HCT < 22
   .
   # S/p traumatic spine injury: continue home methadone, baclofen,
   lyrica; hold oxycodone, oxybutynin and klonopin
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   # FEN: replete lytes prn (NEEDS [**Hospital1 **] LYTES GIVEN K/MG/PHOS requirements)
   / tube feeds
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-12-26 07:02:00 Physician Resident Progress Note
Chief Complaint: Pneumonia, UTI
   24 Hour Events:
   Extubated, quite sedated, increased work of breathing, and new
   ventricular rhythm
   -Reintubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-12-26**] 12:00 AM
   Meropenem - [**2147-12-26**] 06:40 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-26**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.7
C (98.1
   HR: 62 (61 - 85) bpm
   BP: 148/79(106) {97/64(78) - 171/97(127)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
    CVP: 7 (0 - 19)mmHg
   Total In:
                                                                  1,999 mL
                                                                  1,128 mL
   PO:
   TF:
                                                                    450 mL
                                                                    282 mL
   IVF:
                                                                  1,309 mL
                                                                    566 mL
   Blood products:
   Total out:
                                                                  3,610 mL
                                                                    335 mL
   Urine:
                                                                  3,610 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,611 mL
                                                                    793 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 500) mL
   Vt (Spontaneous): 0 (0 - 228) mL
   PS : 0 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 55
   RSBI Deferred: No Spon Resp
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   Compliance: 20.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.53/46/99.[**Numeric Identifier 299**]/36/14
   Ve: 5.4 L/min
   PaO2 / FiO2: 198
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   230 K/uL
   8.2 g/dL
   102 mg/dL
   0.2 mg/dL
   36 mEq/L
   3.0 mEq/L
   9 mg/dL
   101 mEq/L
   143 mEq/L
   26.3 %
   5.3 K/uL
        [image002.jpg]
                            [**2147-12-23**]  04:55 PM
                            [**2147-12-23**]  05:07 PM
                            [**2147-12-24**]  03:31 AM
                            [**2147-12-24**]  03:35 AM
                            [**2147-12-24**]  03:25 PM
                            [**2147-12-25**]  03:07 AM
                            [**2147-12-25**]  03:20 AM
                            [**2147-12-25**]  11:16 AM
                            [**2147-12-25**]  04:11 PM
                            [**2147-12-26**]  05:17 AM
   WBC
   5.0
   4.0
   5.3
   Hct
   24.8
   26.0
   24.3
   26.3
   Plt
   195
   226
   230
   Cr
   0.2
   0.2
   0.2
   0.2
   TCO2
   35
   38
   41
   40
   40
   Glucose
   120
   157
   84
   102
   Other labs: PT / PTT / INR:13.3/31.5/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with CITROBACTER FREUNDII UTI and MRSA PNA.
   # PNA / hypoxic & hypercapneic respiratory failure: Likely due to HAP.
   Sputum Culture growing MRSA and Group C Beta Strep Will wean with goal
   of possible SBT and extubation tomorrow despite prior failed attempt.
   More likely will require trach vs button.
   - f/u Blood Cx (NGTD), sputum Cx (MRSA, strep sensis pending), urine
   legionella (NEGATIVE), flu swab (DFA NEGATIVE, viral culture negative)
   - Covered for HAP given recent hospitalization and trach with vanco &
   meropenem, d1= [**12-18**], completed one week course on [**12-27**] & vancomycin
   discontinued
   - f/u culture sensitivities
   - serial ABG, daily CXR
   - Albuterol MDI prn
   - Switch to PSV; get NIF, if fais SBT, then consult thoracics for
   button placement
   # Fevers: Patient afebrile x 48hours. +Eosinophil count which suggested
   drug fever trended down.  Wil cont to monitor, if develops rash will
   need to switch antibiotics.  Blood cultures, Urine Cx sent last night.
   If continues with fevers will need to resite CVL and aline
   -- f/u cultures
   -- trend eos
   -- consider line change if fevers recur
   # UTI/ hx of ESBL:   Urine culture here growing Citrobacter Freundii,
   sensitive to Meropenem
   - continue meropenem for 14 day course for UTI (d1= [**12-18**])
   # Hypotension: Likely related to sepsis, now improved.
   - On levophed initially but now off
   # ANEMIA: History of  Anemia of chronic disease.
   - trend daily, transfuse as needed
   .
   # S/p traumatic spine injury: initially continued home methadone,
   baclofen, lyrica; hold oxycodone, oxybutynin.  Resumed home Klonapin
   yesterday
   - now holding all sedating meds given issues with extubation
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   # FEN: replete lytes prn  / tube feeds
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2147-12-25**] 08:00 PM 60 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-12-27 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Should have had NIF; Failed SBP, planned to hold of on extubation for
   one day
   Discussed plan for repeat trial of extubation today with family and
   possible need for trach
   Hypertensive to 180s; given Klonipen and methadone no improvement.  IV
   hydral with BP improved to 140s.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-12-26**] 08:36 AM
   Meropenem - [**2147-12-27**] 06:00 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2147-12-26**] 08:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-27**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 64 (55 - 89) bpm
   BP: 118/66(89) {100/58(75) - 177/95(126)} mmHg
   RR: 12 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
    CVP: 7 (2 - 13)mmHg
   Total In:
                                                                  3,692 mL
                                                                    617 mL
   PO:
   TF:
                                                                  1,317 mL
                                                                    121 mL
   IVF:
                                                                  1,975 mL
                                                                    376 mL
   Blood products:
   Total out:
                                                                  2,335 mL
                                                                    350 mL
   Urine:
                                                                  2,335 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                    267 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PRVC/AC
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 282) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: #Overflow#
   RSBI Deferred: No Spon Resp
   PIP: 35 cmH2O
   Plateau: 28 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/48/125/36/12
   Ve: 5.7 L/min
   PaO2 / FiO2: 250
   Physical Examination
   GEN: intubated, sedated, no following commands
   CVS: +S1/S2, no M/R/G, RRR
   LUNGS: +mild expiratory ronchi, no wheezes or crackles
   ABD: +BS, NT/ND
   EXT: +1 pitting edema of bilateral feet, +2 pulses
   Labs / Radiology
   260 K/uL
   8.4 g/dL
   111 mg/dL
   0.2 mg/dL
   36 mEq/L
   3.7 mEq/L
   8 mg/dL
   104 mEq/L
   143 mEq/L
   25.2 %
   5.3 K/uL
        [image002.jpg]
                            [**2147-12-24**]  03:31 AM
                            [**2147-12-24**]  03:35 AM
                            [**2147-12-24**]  03:25 PM
                            [**2147-12-25**]  03:07 AM
                            [**2147-12-25**]  03:20 AM
                            [**2147-12-25**]  11:16 AM
                            [**2147-12-25**]  04:11 PM
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
   WBC
   5.0
   4.0
   5.3
   5.3
   Hct
   26.0
   24.3
   26.3
   25.2
   Plt
   195
   226
   230
   260
   Cr
   0.2
   0.2
   0.2
   0.2
   0.2
   TCO2
   38
   41
   40
   40
   38
   Glucose
   120
   157
   84
   102
   111
   Other labs: PT / PTT / INR:13.3/31.5/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with CITROBACTER FREUNDII UTI and MRSA PNA.
   # PNA / hypoxic & hypercapneic respiratory failure: Likely due to HAP.
    Sputum Culture growing MRSA and Group C Beta Strep Will wean with goal
   of possible extubation today despite prior failed attempt. More likely
   will require trach vs button.  Covered for HAP given recent
   hospitalization and trach with vanco & meropenem, d1= [**12-18**], completed
   one week course on [**12-27**] & vancomycin discontinued.  Blood Cx (NGTD),
   sputum Cx (MRSA, strep), urine legionella (NEGATIVE), flu swab (DFA
   NEGATIVE, viral culture negative).  Subsequent sputum cultures
   negative.
   - f/u culture sensitivities
   - serial ABG, daily CXR
   - Albuterol MDI prn
   - Trial of extubation, if possible.
   - consult thoracics for button placement
   # UTI/ hx of ESBL:   Urine culture here growing Citrobacter Freundii,
   sensitive to Meropenem
   - continue meropenem for 14 day course for UTI (d1= [**12-18**])
   # Hypotension/Hytpertension: Likely related to sepsis, now improved.
   - Continue to monitor, short acting BP meds PRN.
   - On levophed initially but now off
   # ANEMIA: History of anemia of chronic disease.
   - trend daily, transfuse as needed
   .
   # S/p traumatic spine injury: initially continued home methadone,
   baclofen, lyrica; hold oxycodone, oxybutynin.  Resumed home Klonapin
   [**12-26**]
   - now holding all sedating meds given issues with extubation
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   # FEN: replete lytes prn  / tube feeds
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-12-28 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Successfully extubated at 05:03 PM
   Had pain and anxiety issues overnight requiring klonipen and toradol
   Started a mechanical insuflator/exsuflator with good effect
   Good urine output to 40 mg IV lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-12-26**] 08:36 AM
   Meropenem - [**2147-12-28**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-12-27**] 08:00 AM
   Furosemide (Lasix) - [**2147-12-27**] 02:47 PM
   Heparin Sodium (Prophylaxis) - [**2147-12-27**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-28**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 81 (53 - 90) bpm
   BP: 161/90(118) {114/68(87) - 169/94(123)} mmHg
   RR: 24 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
    CVP: 6 (6 - 11)mmHg
   Total In:
                                                                  1,198 mL
                                                                    227 mL
   PO:
   TF:
                                                                    121 mL
   IVF:
                                                                    837 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  3,935 mL
                                                                  1,120 mL
   Urine:
                                                                  3,935 mL
                                                                  1,120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,737 mL
                                                                   -893 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 181 (0 - 331) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 100%
   RSBI: 63
   PIP: 4 cmH2O
   SpO2: 96%
   ABG: 7.47/51/59/35/11
   Ve: 3.2 L/min
   PaO2 / FiO2: 59
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, No Endotracheal tube
   Cardiovascular: nl S1 S2 RRR no m/r/g
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   325 K/uL
   9.1 g/dL
   90 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.1 mEq/L
   6 mg/dL
   103 mEq/L
   143 mEq/L
   27.2 %
   5.7 K/uL
        [image002.jpg]
                            [**2147-12-25**]  03:20 AM
                            [**2147-12-25**]  11:16 AM
                            [**2147-12-25**]  04:11 PM
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
                            [**2147-12-27**]  03:09 PM
                            [**2147-12-27**]  08:06 PM
                            [**2147-12-28**]  04:48 AM
                            [**2147-12-28**]  05:00 AM
   WBC
   5.3
   5.3
   5.7
   Hct
   26.3
   25.2
   27.2
   Plt
   230
   260
   325
   Cr
   0.2
   0.2
   0.2
   0.3
   TCO2
   41
   40
   40
   38
   36
   38
   Glucose
   102
   111
   88
   90
   Other labs: PT / PTT / INR:13.3/31.5/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with CITROBACTER FREUNDII UTI and MRSA PNA.
   # PNA / hypoxic & hypercapneic respiratory failure: MRSA/Group C strep
   pneumonia treated with Vanc for 7 days, ended [**12-27**].  Had been
   persistantly vent dependent with concern for need of repeat trach, but
   has been doing well s/p extubation.  She remains hypercarbic with
   significant O2 requirement.
   - incentive [**Location (un) 2811**]/encourage cough
   - continue to diurese with lasix 40 [**Hospital1 **] with goal 1L O>I
   - avoid oversedation
   - monitor respiratory status
   - Albuterol MDI prn
   .
   # UTI/ hx of ESBL:   Urine culture here growing Citrobacter Freundii,
   sensitive to Meropenem
   - continue meropenem for 14 day course for UTI (d1= [**12-18**])
   # Hypotension/Hytpertension: Likely related to sepsis, now improved.
   Outpatient blood pressures in the 120s, currently 160s.
   - Continue to monitor, short acting BP meds PRN.  [**Month (only) 8**] need to start
   antihypertensives once out of the ICU.
   # ANEMIA: History of anemia of chronic disease.
   - trend daily, transfuse as needed
   .
   # S/p traumatic spine injury: initially continued home methadone,
   baclofen, lyrica; hold oxycodone, oxybutynin.  Resumed home Klonapin
   [**12-26**]
   - can restart pain meds as tolerated by respiratory function
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   # FEN: replete lytes prn  / tube feeds
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   # FEN: replete lytes prn  / tube feeds
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU

2147-12-28 11:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   HPI:
   50 yo paraplegic female (T2 injury following MVC [**1-5**]) with recurrent
   resp failure (trach'd [**10-11**] after pea arrest following prolonged resp
   failure but decannulated at rehab just prior to current admission) and
   recurrent UTI
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2147-12-27**] 05:03 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-12-26**] 08:36 AM
   Meropenem - [**2147-12-28**] 06:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2147-12-27**] 02:47 PM
   Heparin Sodium (Prophylaxis) - [**2147-12-27**] 10:00 PM
   Pantoprazole (Protonix) - [**2147-12-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-28**] 11:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 98 (53 - 98) bpm
   BP: 156/90(117) {114/68(87) - 169/94(123)} mmHg
   RR: 27 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
   CVP: 7 (6 - 11)mmHg
   Total In:
                                                                  1,198 mL
                                                                    373 mL
   PO:
   TF:
                                                                    121 mL
   IVF:
                                                                    837 mL
                                                                    373 mL
   Blood products:
   Total out:
                                                                  3,935 mL
                                                                  1,920 mL
   Urine:
                                                                  3,935 mL
                                                                  1,920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,737 mL
                                                                 -1,547 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 181 (0 - 208) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 70%
   PIP: 4 cmH2O
   SpO2: 95%
   ABG: 7.47/51/59/35/11
   Ve: 3.2 L/min
   PaO2 / FiO2: 84
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.1 g/dL
   325 K/uL
   90 mg/dL
   0.3 mg/dL
   35 mEq/L
   4.1 mEq/L
   6 mg/dL
   103 mEq/L
   143 mEq/L
   27.2 %
   5.7 K/uL
        [image002.jpg]
                            [**2147-12-25**]  03:20 AM
                            [**2147-12-25**]  11:16 AM
                            [**2147-12-25**]  04:11 PM
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
                            [**2147-12-27**]  03:09 PM
                            [**2147-12-27**]  08:06 PM
                            [**2147-12-28**]  04:48 AM
                            [**2147-12-28**]  05:00 AM
   WBC
   5.3
   5.3
   5.7
   Hct
   26.3
   25.2
   27.2
   Plt
   230
   260
   325
   Cr
   0.2
   0.2
   0.2
   0.3
   TCO2
   41
   40
   40
   38
   36
   38
   Glucose
   102
   111
   88
   90
   Other labs: PT / PTT / INR:13.3/31.5/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   1. Respiratory failure
 PNA, likely [**3-6**] aspiration. Review of prior
   CO2 and HCO3 c/w partial CO2 retention, although it remains possible
   that the patient has been ventilated for prolonged periods with low Ve
   and now has a compensatory metabolic alkalosis.  Also ? component of
   COPD.  Now doing well post-extubation.
   -aggressive chest PT and MIE to avoid need for trach, given extremely
   poor cough.
   -cont vanc/meropenem x 8days.
   -gentle diuresis.
   2.HTN
 mildly hypotensive on presentation, now resolved.
   3. UTI
 h/o ESBL.  Contineud on meropenem.
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: D5, pending swallow eval.
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM
   Prophylaxis:
   DVT: refusing hep sc.
   Stress ulcer: sucralfate,  PPI
   VAP:
   Comments:  Full code
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill.

2147-12-29 08:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt cont to be extubated but needs a lot of encouragement to cough and
   participate in clearing her secretions. She is only sometimes able to
   get them to the back of her throat
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2147-12-26**] 08:36 AM
   Meropenem - [**2147-12-28**] 11:51 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-12-28**] 08:00 AM
   Carafate (Sucralfate) - [**2147-12-28**] 10:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-29**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.7
C (96.3
   HR: 77 (68 - 98) bpm
   BP: 177/99(131) {148/81(108) - 177/122(345)} mmHg
   RR: 17 (17 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
    CVP: 8 (6 - 8)mmHg
   Total In:
                                                                  1,960 mL
                                                                    144 mL
   PO:
                                                                    350 mL
   TF:
   IVF:
                                                                  1,610 mL
                                                                    144 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,000 mL
   Urine:
                                                                  4,250 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,290 mL
                                                                   -856 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, No Endotracheal tube
   Cardiovascular: nl S1 S2 RRR no m/r/g
   Abdominal: Soft, Non-tender, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   384 K/uL
   9.8 g/dL
   90 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   5 mg/dL
   103 mEq/L
   142 mEq/L
   30.9 %
   5.7 K/uL
        [image002.jpg]
                            [**2147-12-25**]  11:16 AM
                            [**2147-12-25**]  04:11 PM
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
                            [**2147-12-27**]  03:09 PM
                            [**2147-12-27**]  08:06 PM
                            [**2147-12-28**]  04:48 AM
                            [**2147-12-28**]  05:00 AM
                            [**2147-12-29**]  03:20 AM
   WBC
   5.3
   5.3
   5.7
   5.7
   Hct
   26.3
   25.2
   27.2
   30.9
   Plt
   230
   260
   325
   384
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   TCO2
   40
   40
   38
   36
   38
   Glucose
   102
   111
   88
   90
   90
   Other labs: PT / PTT / INR:13.3/31.5/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 ANXIETY
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with CITROBACTER FREUNDII UTI and MRSA PNA.
   # PNA / hypoxic & hypercapneic respiratory failure: MRSA/Group C strep
   pneumonia treated with Vanc for 7 days, ended [**12-27**].  Had been
   persistantly vent dependent with concern for need of repeat trach, but
   has been doing well s/p extubation.  She remains hypercarbic with
   significant O2 requirement.
   - incentive [**Location (un) 2811**]/encourage cough
   - chest PT
   - mechanical insuflator/exsuflator
   - avoid oversedation, decrease klonipen dose
   - monitor respiratory status, diuresis prn
   - Albuterol MDI prn
   .
   # UTI/ hx of ESBL:   Urine culture here growing Citrobacter Freundii,
   sensitive to Meropenem
   - continue meropenem for 14 day course for UTI (d1= [**12-18**])
   # Hypotension/Hytpertension: Likely related to sepsis, now improved.
   Outpatient blood pressures in the 120s, currently 160s.
   - Continue to monitor, short acting BP meds PRN.  [**Month (only) 8**] need to start
   antihypertensives once out of the ICU.
   # ANEMIA: History of anemia of chronic disease.
   - trend daily, transfuse as needed
   .
   # S/p traumatic spine injury: initially continued home methadone,
   baclofen, lyrica; hold oxycodone, oxybutynin.  Resumed home Klonapin
   [**12-26**]
   - can restart pain meds as tolerated by respiratory function
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   ICU Care
   # FEN: replete lytes prn  /  will do swallow eval prior to advancing
   diet.  D5
 NS x 1L for now.
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line; consider D/C tomorrow if stable
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU

2147-12-29 12:00:00 Physician Attending Progress Note
Chief Complaint:
   Respiratory failure
   HPI:
   50 yo paraplegic female (T2 injury following MVC [**1-5**]) with recurrent
   resp failure (trach'd [**10-11**] after pea arrest following prolonged resp
   failure but decannulated at rehab just prior to current admission) and
   recurrent UTI
   24 Hour Events:
                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-12-28**] 11:51 PM
   Infusions:
   Other ICU medications:
   Carafate (Sucralfate) - [**2147-12-29**] 06:00 AM
   Pantoprazole (Protonix) - [**2147-12-29**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-29**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 93 (68 - 101) bpm
   BP: 163/97(124) {151/91(117) - 183/122(345)} mmHg
   RR: 19 (17 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
   CVP: 3 (2 - 8)mmHg
   Total In:
                                                                  1,960 mL
                                                                    346 mL
   PO:
                                                                    350 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,610 mL
                                                                    196 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,800 mL
   Urine:
                                                                  4,250 mL
                                                                  1,800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,290 mL
                                                                 -1,455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///28/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   384 K/uL
   90 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   5 mg/dL
   103 mEq/L
   142 mEq/L
   30.9 %
   5.7 K/uL
         [image002.jpg]
                            [**2147-12-25**]  11:16 AM
                            [**2147-12-25**]  04:11 PM
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
                            [**2147-12-27**]  03:09 PM
                            [**2147-12-27**]  08:06 PM
                            [**2147-12-28**]  04:48 AM
                            [**2147-12-28**]  05:00 AM
                            [**2147-12-29**]  03:20 AM
   WBC
   5.3
   5.3
   5.7
   5.7
   Hct
   26.3
   25.2
   27.2
   30.9
   Plt
   230
   260
   325
   384
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   TCO2
   40
   40
   38
   36
   38
   Glucose
   102
   111
   88
   90
   90
   Other labs: PT / PTT / INR:13.3/31.5/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   1. Respiratory failure
 PNA, likely [**3-6**] aspiration. Review of prior
   CO2 and HCO3 c/w partial CO2 retention, although it remains possible
   that the patient has been ventilated for prolonged periods with low Ve
   and now has a compensatory metabolic alkalosis.  Also ? component of
   COPD.  Now doing well post-extubation.
   -aggressive chest PT and MIE to avoid need for trach, given extremely
   poor cough.
   -cont vanc/meropenem x 8days.
   -gentle diuresis.
   2.HTN
 mildly hypotensive on presentation, now resolved.
   3. UTI
 h/o ESBL.  Continued on meropenem, to complete on 30^th.
   4. HA
 pursue CT head.  Symptomatic treatment.
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: D5, pending swallow eval.
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM, will leave in place given
   difficult central access.
   Prophylaxis:
   DVT: refusing enoxaparin.
   Stress ulcer: sucralfate,  PPI
   VAP:
   Comments:  Full code
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill.
   ------ Protected Section ------
   PE:
   General: Awake and appropriate, NAD
   HEENT: PERRL. OP clear
   JVP 7 cm.
   Regular S1,S2. No m/r/g
   Lungs: Normal excursion bilaterally, rounds up abdomen at the extreme
   end of expiration.CTA
   Abd: +bs. Soft. NT. ND>
   Trace LE edema.  No c/c/e
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 7826**], MD
   on:[**2147-12-30**] 08:05 ------

2147-12-30 07:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-12-29**] 04:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2147-12-29**] 08:00 PM
   Developed severe headache, binocular blindness, decreased facial
   sensation; CT and MRI c/w PRES.  Neuro consulted recommended SBP
   120-140, EEG in AM.  Started chlorthalidone and labatelol gtt with
   transient SBP in 80s.
   Started nectar thick diet
   A-line removed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-12-30**] 05:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-12-29**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-30**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 80 (64 - 100) bpm
   BP: 133/77(91) {72/40(42) - 165/100(113)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
    CVP: 3 (2 - 6)mmHg
   Total In:
                                                                    711 mL
                                                                    636 mL
   PO:
                                                                    270 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    441 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    173 mL
   Urine:
                                                                  2,690 mL
                                                                    173 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,979 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   437 K/uL
   9.6 g/dL
   90 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   5 mg/dL
   103 mEq/L
   142 mEq/L
   30.3 %
   9.0 K/uL
        [image002.jpg]
                            [**2147-12-25**]  04:11 PM
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
                            [**2147-12-27**]  03:09 PM
                            [**2147-12-27**]  08:06 PM
                            [**2147-12-28**]  04:48 AM
                            [**2147-12-28**]  05:00 AM
                            [**2147-12-29**]  03:20 AM
                            [**2147-12-30**]  06:12 AM
   WBC
   5.3
   5.3
   5.7
   5.7
   9.0
   Hct
   26.3
   25.2
   27.2
   30.9
   30.3
   Plt
   230
   260
   325
   384
   437
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   TCO2
   40
   38
   36
   38
   Glucose
   102
   111
   88
   90
   90
   Other labs: PT / PTT / INR:13.3/31.5/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis,
   presenting with CITROBACTER FREUNDII UTI and MRSA PNA.
   # PNA / hypoxic & hypercapneic respiratory failure: MRSA/Group C strep
   pneumonia treated with Vanc for 7 days, ended [**12-27**].  Had been
   persistantly vent dependent with concern for need of repeat trach, but
   has been doing well s/p extubation.  She remains hypercarbic with
   significant O2 requirement.
   - incentive [**Location (un) 2811**]/encourage cough
   - chest PT
   - mechanical insuflator/exsuflator
   - avoid oversedation, decrease klonipen dose
   - monitor respiratory status, diuresis prn
   - Albuterol MDI prn
   .
   # UTI/ hx of ESBL:   Urine culture here growing Citrobacter Freundii,
   sensitive to Meropenem
   - continue meropenem for 14 day course for UTI (d1= [**12-18**])
   # Hypotension/Hytpertension: Likely related to sepsis, now improved.
   Outpatient blood pressures in the 120s, currently 160s.
   - Continue to monitor.  Will start chlorthalidone for BP management.
   # ANEMIA: History of anemia of chronic disease.
   - trend daily, transfuse as needed
   .
   # S/p traumatic spine injury: initially continued home methadone,
   baclofen, lyrica; hold oxycodone, oxybutynin.  Resumed home Klonapin
   [**12-26**]
   - can restart pain meds as tolerated by respiratory function
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   ICU Care
   # FEN: replete lytes prn  /  will do swallow eval prior to advancing
   diet.  D5
 NS x 1L for now.
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL, a-line; consider D/C tomorrow if stable
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2147-12-18**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2147-12-30 08:01:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    50 yo paraplegic female (T2 injury following MVC [**1-5**]) with recurrent
   resp failure (trach'd [**10-11**] after pea arrest following prolonged resp
   failure but decannulated at rehab just prior to current admission) and
   recurrent UTI
   24 Hour Events:
 ARTERIAL LINE - STOP [**2147-12-29**] 04:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2147-12-29**] 08:00 PM
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-12-30**] 05:55 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2147-12-29**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-30**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 80 (64 - 100) bpm
   BP: 133/77(91) {72/40(42) - 165/100(113)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
   CVP: 3 (2 - 6)mmHg
   Total In:
                                                                    711 mL
                                                                    640 mL
   PO:
                                                                    270 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    441 mL
                                                                    280 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    173 mL
   Urine:
                                                                  2,690 mL
                                                                    173 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,979 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   General: Awake and appropriate, NAD
   HEENT: PERRL. OP clear
   JVP 7 cm.
   Regular S1,S2. No m/r/g
   Lungs: Normal excursion bilaterally, rounds up abdomen at the extreme
   end of expiration.CTA
   Abd: +bs. Soft. NT. ND>
   Trace LE edema.  No c/c/e
   Labs / Radiology
   9.6 g/dL
   437 K/uL
   90 mg/dL
   0.3 mg/dL
   28 mEq/L
   3.4 mEq/L
   5 mg/dL
   103 mEq/L
   142 mEq/L
   30.3 %
   9.0 K/uL
        [image002.jpg]
                            [**2147-12-25**]  04:11 PM
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
                            [**2147-12-27**]  03:09 PM
                            [**2147-12-27**]  08:06 PM
                            [**2147-12-28**]  04:48 AM
                            [**2147-12-28**]  05:00 AM
                            [**2147-12-29**]  03:20 AM
                            [**2147-12-30**]  06:12 AM
   WBC
   5.3
   5.3
   5.7
   5.7
   9.0
   Hct
   26.3
   25.2
   27.2
   30.9
   30.3
   Plt
   230
   260
   325
   384
   437
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   TCO2
   40
   38
   36
   38
   Glucose
   102
   111
   88
   90
   90
   Other labs: PT / PTT / INR:13.3/31.5/1.1, ALT / AST:[**9-9**], Alk Phos / T
   Bili:60/0.1, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Impression and Plan:
   50 yo paraplegic female (T2 injury following MVC [**1-5**]) with recurrent
   resp failure (trach'd [**10-11**] after pea arrest following prolonged resp
   failure but decannulated at rehab just prior to current admission) and
   recurrent UTI
   1. PRES
unusual to see in this mild HTN but not unreported.  No clear
   offending agents.  Appreciate Neuro input.
   -goal bp 120-140.
   -cont chlorthalidone, if needs add
l [**Doctor Last Name **] would add esmolol or other
   very short acting gtt.
   2. Respiratory failure
 MRSA PNA.  Review of prior CO2 and HCO3 c/w
   partial CO2 retention, although it remains possible that the patient
   has been ventilated for prolonged periods with low Ve and now has a
   compensatory metabolic alkalosis.  h/o COPD, 35 pk/yrs.  Now doing well
   post-extubation.
   -aggressive chest PT and MIE to avoid need for trach, given extremely
   poor cough.
   -completed 8d course of vanc
   -gentle diuresis.
   2.HTN
 unclear etiology, did not previously have a h/o.  ? if related
   to pain, symptathetic drive from ICU.
   3. UTI
 h/o ESBL.  Continued on meropenem, to complete on 30^th.
   4. HA
 pursue CT head.  Symptomatic treatment.
   Other issues per HO note.
   5. Pain- trial of pain relief.
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: D5, pending swallow eval.
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM, will leave in place given
   difficult central access.
   Prophylaxis:
   DVT: refusing enoxaparin.
   Stress ulcer: sucralfate,  PPI
   VAP:
   Comments:  Full code
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill.
   ------ Protected Section ------
   Patient admitted to MICU with respiratory failure and pneumonia.
   Patient extubated on [**12-27**]. Doing well since then from respiratory
   standpoint. Getting aggressive chest PT.  Bilateral cortical blindness
   yesterday felt secondary to hypertension. Was on labetalol drip
   transiently; now off. Only med for hypertension now is chlorthalidone.
   Vision improving.
   On exam, patient awake and alert; complaining of throbbing headache
   and photophobia. Chest with coarse upper airway sounds bilaterally.
   Heart sounds soft. No gallop or murmur. Abdomen soft and non-tender.
   Extremties warm and well perfused; good capillary refill.
   Continue to monitor blood pressure closely (target 120-140 systolic).
   Renal function normal. Doing well post extubation.  Continue
   bronchopulmonary hygiene.
   25 mins.
   ------ Protected Section Addendum Entered By:[**Name (NI) 214**] [**Last Name (NamePattern1) **], MD
   on:[**2147-12-30**] 17:58 ------

2147-12-31 07:45:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    50 yo paraplegic female (T2 injury following MVC [**1-5**]) with recurrent
   resp failure (trach'd [**10-11**] after pea arrest following prolonged resp
   failure but decannulated at rehab just prior to current admission) and
   recurrent UTI
   24 Hour Events:
 EEG - At [**2147-12-30**] 09:45 AM
   Started on morphine PRN
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-12-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2147-12-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-31**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 75 (56 - 82) bpm
   BP: 99/52(65) {74/42(49) - 149/90(103)} mmHg
   RR: 16 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,190 mL
                                                                    917 mL
   PO:
                                                                    950 mL
                                                                    740 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                    738 mL
                                                                    185 mL
   Urine:
                                                                    738 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,452 mL
                                                                    732 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General: Awake and appropriate, NAD
   HEENT: PERRL. OP clear
   JVP 7 cm.
   Regular S1,S2. No m/r/g
   Lungs: Normal excursion bilaterally, rounds up abdomen at the extreme
   end of expiration.CTA
   Abd: +bs. Soft. NT. ND.
   Trace LE edema.  No c/c/e
   Labs / Radiology
   9.2 g/dL
   388 K/uL
   93 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.0 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   27.5 %
   6.0 K/uL
        [image002.jpg]
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
                            [**2147-12-27**]  03:09 PM
                            [**2147-12-27**]  08:06 PM
                            [**2147-12-28**]  04:48 AM
                            [**2147-12-28**]  05:00 AM
                            [**2147-12-29**]  03:20 AM
                            [**2147-12-30**]  06:12 AM
                            [**2147-12-31**]  03:32 AM
   WBC
   5.3
   5.3
   5.7
   5.7
   9.0
   6.0
   Hct
   26.3
   25.2
   27.2
   30.9
   30.3
   27.5
   Plt
   230
   260
   325
   384
   437
   388
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   0.3
   0.3
   TCO2
   38
   36
   38
   Glucose
   102
   111
   88
   90
   90
   95
   93
   Other labs: PT / PTT / INR:13.5/31.0/1.2, ALT / AST:[**8-10**], Alk Phos / T
   Bili:63/0.2, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:150 IU/L, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.4
   mg/dL
   50 yo paraplegic female (T2 injury following MVC [**1-5**]) with recurrent
   resp failure (trach'd [**10-11**] after pea arrest following prolonged resp
   failure but decannulated at rehab just prior to current admission) a/w
   hypoxemic respiratory failure, course c/b PRES .
   1. PRES
unusual to see in this mild HTN but not unreported.  No clear
   offending agents.  Appreciate Neuro input.  Now s/p 48h close
   monitoring and vision dramatically improved.
   -goal bp 120-140.
   -cont chlorthalidone, if needs add
l [**Doctor Last Name **] would add esmolol or other
   very short acting gtt.
   2. Respiratory failure
 MRSA PNA.  Review of prior CO2 and HCO3 c/w
   partial CO2 retention, although it remains possible that the patient
   has been ventilated for prolonged periods with low Ve and now has a
   compensatory metabolic alkalosis.  h/o COPD, 35 pk/yrs.  Now doing well
   post-extubation.
   -aggressive chest PT and MIE to avoid need for trach, given extremely
   poor cough.
   -completed 8d course of vanc
   -gentle diuresis.
   2.HTN
 unclear etiology, did not previously have a h/o.  ? if related
   to pain, symptathetic drive from ICU.
   3. UTI
 h/o ESBL.  Continued on meropenem, to complete on 30^th.
   4. Pain- cont morphine.
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition: D5, pending swallow eval.
   Glycemic Control:
   Lines:
   Arterial Line - [**2147-12-18**] 03:47 PM
   Presep Catheter - [**2147-12-18**] 03:47 PM, will leave in place given
   difficult central access and course completed [**1-1**].
   Prophylaxis:
   DVT: refusing enoxaparin.
   Stress ulcer: sucralfate,  PPI
   VAP:
   Comments:  Full code
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill.
   ------ Protected Section ------
   I was physically present with the housestaff team on this date for
   discussion of the above history, physical, data and assessment and plan
   with which I agree.  I would add the following comments.
   Patient is a 50 yo female with presentation with hypoxemic respiratory
   failure and found to have polymicrobial infection and now with
   successful extubation on [**2147-12-26**].  She has been able to be maintained
   on stable O2 requirements following second extubation.
   Of note, patient has had persistent hypertension with evolution of
   significant headache with cortical blindness with PRESS seen on MRI.
   Now, patient has had improved stability with antihypertensives.
   Will move to transition to medical floor with improved blood pressure
   stability, resolving headache/blindness and continued stability of
   respiratory status.
   Time-40 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2147-12-31**] 17:11 ------

2147-12-31 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2147-12-30**] 09:45 AM
   - Per neuro, goal SBP 120-140, which she maintained without additional
   medication. Only on chlortahlidone currently. Vision somewhat improved.
   - Tramadol stopped as having no effect and morphine started (instead of
   methadone).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2147-12-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2147-12-31**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2147-12-31**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.3
C (97.3
   HR: 75 (56 - 82) bpm
   BP: 99/52(65) {74/42(49) - 149/90(103)} mmHg
   RR: 16 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.9 kg (admission): 75.5 kg
   Height: 65 Inch
             Total In:
                                                                  2,190 mL
                                                                    918 mL
   PO:
                                                                    950 mL
                                                                    740 mL
   TF:
   IVF:
                                                                  1,240 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    738 mL
                                                                    185 mL
   Urine:
                                                                    738 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,452 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General: Awake and appropriate, NAD
   HEENT: PERRL. OP clear
   JVP 7 cm.
   Regular S1,S2. No m/r/g
   Lungs: Normal excursion bilaterally, rounds up abdomen at the extreme
   end of expiration.CTA
   Abd: +bs. Soft. NT. ND.
   Trace LE edema.  No c/c/e
   Labs / Radiology
   388 K/uL
   9.2 g/dL
   93 mg/dL
   0.3 mg/dL
   31 mEq/L
   4.0 mEq/L
   11 mg/dL
   103 mEq/L
   140 mEq/L
   27.5 %
   6.0 K/uL
        [image002.jpg]
                            [**2147-12-26**]  05:17 AM
                            [**2147-12-27**]  04:23 AM
                            [**2147-12-27**]  04:32 AM
                            [**2147-12-27**]  03:09 PM
                            [**2147-12-27**]  08:06 PM
                            [**2147-12-28**]  04:48 AM
                            [**2147-12-28**]  05:00 AM
                            [**2147-12-29**]  03:20 AM
                            [**2147-12-30**]  06:12 AM
                            [**2147-12-31**]  03:32 AM
   WBC
   5.3
   5.3
   5.7
   5.7
   9.0
   6.0
   Hct
   26.3
   25.2
   27.2
   30.9
   30.3
   27.5
   Plt
   230
   260
   325
   384
   437
   388
   Cr
   0.2
   0.2
   0.2
   0.3
   0.3
   0.3
   0.3
   TCO2
   38
   36
   38
   Glucose
   102
   111
   88
   90
   90
   95
   93
   Other labs: PT / PTT / INR:13.5/31.0/1.2, ALT / AST:[**8-10**], Alk Phos / T
   Bili:63/0.2, Differential-Neuts:66.9 %, Band:33.0 %, Lymph:25.8 %,
   Mono:3.5 %, Eos:3.3 %, Fibrinogen:525 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.8 g/dL, LDH:150 IU/L, Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
 ANXIETY
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 URINARY TRACT INFECTION (UTI)
 PNEUMONIA, OTHER
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   51 yo F paraplegic with a hx of recurrent UTIs, PNAs, sepsis, now
   presenting w/ PRES
   #PRES: Per neurology this will take several days to a week for the
   cerebral edema to resolve and for symptoms to improve. Her BP dropped
   very low on smallest doses of labetalol so drip was stopped and she is
   continued only on chlorthalidone now. With good BP control (SBP btw 120
   and 140) for the last day.
   - consider adding captopril vs nifedipine if persistently in 140s
   systolic, could then transition to a daily med
   - currently BP controlled
   - neurology following
   .
   # PNA / hypoxic & hypercapneic respiratory failure: S/p MRSA PNA
   treated for 7 days of vanc. Improved  O2 requirement, has been getting
   frequent chest PT in the ICU and should get some chest PT to the degree
   it can be provided on the floor.
   - incentive [**Location (un) 2811**]/encourage cough
   - chest PT
   - mechanical insuflator/exsuflator
   - avoid oversedation, discontinue klonopin
   - Albuterol prn
   .
   # UTI:  hx of ESBL Kleb. Urine culture here growing Citrobacter
   Freundii, sensitive to Meropenem
   - continue meropenem for 14 day course for UTI (d1= [**12-18**]) ending [**1-1**]
   - d/c CVL s/p completion of Abx course
   # ANEMIA: Stable. History of anemia of chronic disease.
   - trend daily, transfuse as needed
   .
   # S/p traumatic spine injury: holding methadone,  oxycodone,
   oxybutynin.  Resumed home Klonapin [**12-26**] then discontinued it on [**12-31**]
   - restarted morphine over methadone, can be transitioned back as MS
   improves
   # Hypothyroidism: continue home levothyroxine
   # Hepatitis C: negative VL recently
   ICU Care
   # FEN: replete lytes prn  /  s/p S/S c/s
   # PPX: PPI/sucralfate, heparin SQ/IVC-filter, bowel regimen
   # ACCESS: PIV, CVL consider D/C tomorrow if stable
   # CODE: full, confirmed with husband/HCP
   # CONTACT: HUSBAND #'s in OMR
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2147-12-18**] 03:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  floor team